US06566357B1
Preparation of 2-[2-(4-fluorophenyl)acetyl]-4-methylene-pyrazolidine-1-carboxylic acid benzyl ester (3):
Sodium hydroxide (0.12 g, 3 mmol) is dissolved in a 1:2 water/methylene chloride solution (30 mL) with rapid stirring followed by the addition of 4-methylene-pyrazolidine-1-carboxylic acid 1-benzyl ester, 2, (0.62 g, 2.8 mmol) at room temperature. (4-Fluorophenyl)acetyl chloride (0.39 mL, 4.2 mmol) is added and the reaction is allowed to stir for 18 hours after which time the reaction mixture is diluted with water (10 mL) and the layers allowed to separate. The aqueous layer is extracted with methylene chloride, the organic layers combined, dried, and filtered. Concentration in vacuo affords the crude product which is purified over silica (1:3 ethyl acetate/hexane) to provide 0.54 g (62% yield) of the desired product.

reactant | Sodium hydroxide | 3 mmol, 0.12 g | [OH-].[Na+]
reactant | 4-methylene-pyrazolidine-1-carboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1NCC(C1)=C | C12H14N2O2
reactant | (4-Fluorophenyl)acetyl chloride | 4.2 mmol, 0.39 mL | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | water methylene chloride | 30 mL | O.C(Cl)Cl
solvent | water | 10 mL | O | H2O
product | 2-[2-(4-fluorophenyl)acetyl]-4-methylene-pyrazolidine-1-carboxylic acid benzyl ester | 0.54 g, 62% yield | C(C1=CC=CC=C1)OC(=O)N1N(CC(C1)=C)C(CC1=CC=C(C=C1)F)=O | C20H19FN2O3
